US08119666B2
To a solution of 2-benzyloxy-6-(3-benzyloxy-4-nitrobenzyl) -benzonitrile (0.564 g, 1.25 mmol) in EtOAc (50 mL), under N2, is added platinum oxide (0.112 g, 0.493 mmol). The suspension is stirred under an H2 atmosphere. Upon consumption of the starting material by LC/MS, the reaction mixture is passed through a plug of Celite and concentrated. Purification of the residue by flash chromatography (15-20% EtOAc/hexanes) affords 2-(4-amino-3-benzyloxybenzyl)-6-benzyloxybenzonitrile as a yellow oil: MS (M+H)+=421.

reactant | 2-benzyloxy-6-(3-benzyloxy-4-nitrobenzyl) -benzonitrile | 1.25 mmol, 0.564 g | C(C1=CC=CC=C1)OC1=C(C#N)C(=CC=C1)CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C28H22N2O4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | platinum oxide | 0.493 mmol, 0.112 g | [Pt]=O
product | 2-(4-amino-3-benzyloxybenzyl)-6-benzyloxybenzonitrile | NC1=C(C=C(CC2=C(C#N)C(=CC=C2)OCC2=CC=CC=C2)C=C1)OCC1=CC=CC=C1 | C28H24N2O2
